US04530836
5.78 g (0.039 mole) of H-Met-NH2 was dissolved in 50 ml of DMF, then 5.46 ml of triethylamine and further 18.70 g (0.047 mole) of Boc-Trp-OSu were added under cooling with ice, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo, and extracted with ethyl acetate. The extract was washed with 1N citric acid, saturated saline solution, saturated sodium bicarbonate solution, and saturated saline solution in series. The resulting organic layer was dried over anhydrous sodium sulfate, distilled in vacuo to remove the solvent, and solidified with hexane. The solid was recrystallized from ethyl acetate-hexane, giving 12.45 g of Boc-Trp-Met-NH2 ; yield 73.5%, m.p. 155°-157° C.

reactant | H-Met-NH2 | 0.039 mole, 5.78 g | N[C@@H](CCSC)C(=O)N | C5H12N2OS
reactant | triethylamine | 5.46 ml | C(C)N(CC)CC | C6H15N
reactant | Boc-Trp-OSu | 0.047 mole, 18.70 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H23N3O6
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Boc-Trp-Met-NH2 | 12.45 g, yield 73.5% | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C21H30N4O4S
